US06049009
Preparation of (S)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c]1,3,2 oxazaborol
Under argon stream, to a solution of (S)-α,α-diphenyl-2-pyrrolidine methanol (3 g, 11.8 mmol) in dry toluene (90 ml) was added trimethyl boroxine (1.13 ml, 8.0 mmol), followed by stirring for 1.5 hours. After the argon stream was stopped and the toluene (22.5 ml) was recovered under normal pressures on an oil bath at 140° C., dry toluene (22.5 ml) was added. Furthermore, after this recovery operation was repeated twice, the resultant product was concentrated under normal pressures, and subsequently under a reduced pressure, to thereby obtain the titled compound as a colorless crystalline.

reactant | (S)-α,α-diphenyl-2-pyrrolidine methanol | 11.8 mmol, 3 g | C1(=CC=CC=C1)C(O)([C@H]1NCCC1)C1=CC=CC=C1 | C17H19NO
reactant | trimethyl boroxine | 8.0 mmol, 1.13 ml | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-3,3-diphenyl-1-methyltetrahydro-1H,3H-pyrrolo[1,2-c]1,3,2 oxazaborol | yield 100% | C1(=CC=CC=C1)C1([C@H]2N(B(O1)C)CCC2)C2=CC=CC=C2 | C18H20BNO
